US08372864B2
5 g of 2-(2-bromophenyl)ethanamine and 10 g of potassium carbonate in 30 cm3 of anhydrous tetrahydrofuran are stirred under an inert atmosphere at a temperature close to 10° C. 2.5 cm3 of methyl chlorocarbonate in solution in 10 cm3 of tetrahydrofuran are poured into the reaction mixture. After returning to a temperature close to 20° C., the reaction mixture is heated for 2 h at the reflux of the solvent. The potassium carbonate is filtered and washed with tetrahydrofuran. The filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). 3.43 g of methyl[2-(2-bromophenyl)ethyl]carbamate are obtained in the form of a colorless thick oil

reactant | 2-(2-bromophenyl)ethanamine | 5 g | BrC1=C(C=CC=C1)CCN | C8H10BrN
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chlorocarbonate | 2.5 cm3 | C(OC)(=O)Cl | C2H3ClO2
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
product | methyl[2-(2-bromophenyl)ethyl]carbamate | 3.43 g | COC(NCCC1=C(C=CC=C1)Br)=O | C10H12BrNO2
